US09029538B2
1-Isopropyl-3-(4-fluoro-phenyl)-2,4-dioxo-1,2,3,4-tetrahydro-pyrimidine-5-carboxylic acid [4-(6,7-dimethoxy-quinolin-4-yloxy)-2-methoxy-phenyl]-amide.
This compound was synthesized using 4-(6,7-dimethoxyquinolin-4-yloxy)-2-methoxy-phenylamine and 3-(4-fluorophenyl)-1-isopropyl-2,4-dioxo-1,2,3,4-tetrahydropyrimidine-5-carboxylic acid using the procedure for example 1. LCMS m/z=601 (M+1); 1H NMR (CDCl3) δ: 11.0 (s, 1H), 8.68 (s, 1H), 8.54 (d, 1H J=9 Hz), 8.5 (d, 1H, J=6 Hz), 7.55 (s, 1H), 7.42 (s, 1H), 7.25-7.23 (m, 3H), 6.81 (dd, 1H, J=3.9 Hz), 6.74 (d, 1H, J=3 Hz), 6.52 (d, 1H, J=6 Hz), 4.96 (p, 1H, J=7 Hz), 4.05 (d, 6H), 3.83 (s, 3H), 1.47 (d, 6H, J=6 Hz).

reactant | 4-(6,7-dimethoxyquinolin-4-yloxy)-2-methoxy-phenylamine | COC=1C=C2C(=CC=NC2=CC1OC)OC1=CC(=C(C=C1)N)OC | C18H18N2O4
reactant | 3-(4-fluorophenyl)-1-isopropyl-2,4-dioxo-1,2,3,4-tetrahydropyrimidine-5-carboxylic acid | FC1=CC=C(C=C1)N1C(N(C=C(C1=O)C(=O)O)C(C)C)=O | C14H13FN2O4
product | 1-Isopropyl-3-(4-fluoro-phenyl)-2,4-dioxo-1,2,3,4-tetrahydro-pyrimidine-5-carboxylic acid [4-(6,7-dimethoxy-quinolin-4-yloxy)-2-methoxy-phenyl]-amide | COC=1C=C2C(=CC=NC2=CC1OC)OC1=CC(=C(C=C1)NC(=O)C=1C(N(C(N(C1)C(C)C)=O)C1=CC=C(C=C1)F)=O)OC | C32H29FN4O7
